US07084277B2
(1-Benzyl-4-methyl-piperidin-3-yl)-methyl-amine
The reduction of cis-(1-benzyl-4-methyl-piperidin-3-yl)-carbamic acid methyl ester was performed by charging 2 grams substrate (1 equiv., 7.62 mmol) to a solution of 20 ml THF (10 volumes) and 15.2 ml 1 M LAH in THF (2 equiv., 15.2 mmol). The addition was performed at a rate so that the temperature reached 30°-40° C. and then the reaction was allowed to cool to 20° C. The reaction was worked up by quenching with 40 ml Rochelle Salt (20 volumes) to a temperature of 35° C. and then extracting the product 2 times into 20 ml methylene chloride (10 volumes). The filtrate was then concentrated to a clear and colorless oil. (90% yield). Note that the starting material needs to be clean in order for this reaction to proceed in high yield.

reactant | cis-(1-benzyl-4-methyl-piperidin-3-yl)-carbamic acid methyl ester | COC(N[C@@H]1CN(CC[C@@H]1C)CC1=CC=CC=C1)=O | C15H22N2O2
reactant | LAH | 1 M, 15.2 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15.2 mmol, 2 equiv. | C1CCOC1 | C4H8O
product | (1-Benzyl-4-methyl-piperidin-3-yl)-methyl-amine | 90% yield | C(C1=CC=CC=C1)N1CC(C(CC1)C)NC | C14H22N2
